** Exponentiation: multiplies the input signals and outputs it
*
*                    ________
*                   |        |
*       x(2) >----->|    x   |
*                   |   y    |-------> output(3)
*       y(1) >----->|        |
*                   |________|
*
*                    ________
*                   |        |
*                   |    x   |
*       y(1) >----->|   y    |-------> output(3)
*                   |        |
*                   |________|
*                       x=2
*


.subckt YEXPX_VAR y x output
    Bout    output      gnd     v={v(y)**v(x)}
.ends YEXPX_VAR

.subckt YEXPX_FIX y output x=2
    Bout    output      gnd     v={v(y)**x}
.ends YEXPX_FIX
