** Exponentiation: multiplies the input signals and outputs it
*
*                    ________
*                   |        |
*       x(2) >----->|    x   |
*                   |   y    |-------> output(3)
*       y(1) >----->|        |
*                   |________|
*
*                    ________
*                   |        |
*                   |    x   |
*       y(1) >----->|   y    |-------> output(3)
*                   |        |
*                   |________|
*                       x=2
*


.subckt YEXPX_VAR y x output
*     Bout    output      gnd     v={v(y)^v(x)}
    Bout    output      gnd     v={exp(v(x)*ln(abs(v(y))))}
.ends YEXPX_VAR

.subckt YEXPX_FIX y output x=2
*     Bout    output      gnd     v={v(y)^x}
    Bout    output      gnd     v={exp(x*ln(abs(v(y))))}
.ends YEXPX_FIX
